Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4](/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-5.03738036994
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[C:9][O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-3.33133738702
[C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.58413073744
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-3.82160512847
[H:1][C:2]([H:3])[C:4]([H:5])([C:6]#[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14]>>[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])[C:4]([H:5])=[C:12]([H:13])[H:14],2.68382435573
[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.60139924068
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2][O:11][C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15],-5.55440335441
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13].[H:1][O:2][C:3][H:4],7.10256270498
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]#[C:8][H:9]>>[H:6].[O:1]=[C:2]([H:3])[O:4][C:5][C:7]#[C:8][H:9],4.74380397232
[C:1]=[C:2]([O:3][H:4])[C:5](=[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[C:1]=[C:2]([O:3][H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.97524830882
[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7][H:8])[O:9][H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][H:8].[O:9][H:10],3.37450395393
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],5.07682992676
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:12]([H:13])[H:14].[O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])[H:14],-2.7504978703500003
[O:1][C:2]([H:3])([H:4])[C:5]=[C:6]=[O:7]>>[C:5][C:6][O:7].[O:1]=[C:2]([H:3])[H:4],0.98160338685
[C:2]([H:3])=[O:5].[O:1](/[C:4]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[H:6]>>[O:1]=[C:2]([H:3])/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.67980301
[C:5]([H:6])[H:7].[O:1][C:2](=[C:3]=[O:4])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3][O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-1.9147186493
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:5].[O:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]([H:9])[H:10],3.0429142871200003
[C:15]([H:16])([H:17])[H:18].[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1]/[C:2](=[C:3](/[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.5419455239
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10],2.11338574691
[C:6]([H:7])(=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.7277230434200002
[C:5]=[C:6]([H:7])[H:8].[O:1][O:2][C:3][H:4]>>[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],-5.91181607651
[H:1][C:2]#[C:3][C:4]([C:6]#[C:7][H:8])=[C:9]([H:10])[H:11].[H:5]>>[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])[H:11],-1.3750233162
[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:3].[O:1]=[C:2]([O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],0.1877471585889999
[C:5]([H:6])([H:7])[H:8].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[H:8],-0.745287230341
[C:1]#[C:2][C:3]([H:4])=[C:5]([O:7][H:8])[O:9][H:10].[H:6]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([O:7][H:8])[O:9][H:10],-2.63323462756
[H:1][C:2][O:3][C:4]#[C:5][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:6]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-2.37787951051
[C:1]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[C:2]#[C:3]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-8.01772469796
[O:1]=[C:2]([C:3](=[C:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:8]([H:9])([H:10])[H:11].[O:6][H:7],3.00843315557
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3],1.98059998515
[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11],-2.06250593568
